data/mechanisms/records/IMS8-EQ8.7b.json
{"mechanism_id": "IMS8-EQ8.7b", "species": [{"species_id": "distonic_gamma_radical_cation", "mapped_smiles": "[CH3:6][CH2:5][CH:4][CH2:3][CH2:2][CH:1]=[O+:7][1H:8]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "acetaldehyde_enol_radical_cation", "mapped_smiles": "[CH2:2]=[CH:1][O+:7][1H:8]", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "but_1_ene_neutral", "mapped_smiles": "[CH2:3]=[CH:4][CH2:5][CH3:6]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["distonic_gamma_radical_cation"]}, {"state_id": "state_products", "species_ids": ["acetaldehyde_enol_radical_cation", "but_1_ene_neutral"]}], "steps": [{"step_id": "step_beta_cleavage_high_energy", "from_state": "state_precursor", "to_state": "state_products", "step_class": "beta_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [4]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [3, 4]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 3]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_beta_cleavage_high_energy", "support_type": "textbook_proposed", "locator": {"page": 144, "equation": "8.7", "section": "8 / Detailed Mechanisms of Ion Fragmentation (Random or hidden rearrangements)"}, "confidence": 0.85, "curator_note": "Equation 8.7, row 1, right branch (arrow labelled 'high energy'). The distonic gamma-radical cation undergoes beta-cleavage of the C2-C3 (alpha-beta) bond, giving the acetaldehyde enol radical cation CH2=CH-OH+. (m/z 44, drawn top-right with +. localized on oxygen) plus neutral 1-butene, which SEPARATE. Book draws 0 arc(s) on the 'high energy' arrow -- it prints only the two separated products, no fishhooks. All 5 electron moves are the implicit, balanced radical retro-ene cascade that produces them: the gamma-radical (move 1) and one C2-C3 electron (move 2) make the new C3=C4 pi bond; the other C2-C3 electron (move 3) and one C1=O pi electron (move 4) make the new C1=C2 pi bond; the remaining C1=O pi electron (move 5) becomes the oxygen radical. Text: at 70 eV this gamma-H/beta-cleavage 'gives mainly C2H4O+. (100%) + 1-C4H8', because IE(CH2=CHOH)=9.2 eV < IE(1-butene)=9.6 eV so the charge stays with the enol. DELOCALISATION: the enol radical cation is drawn/encoded with +. on O; the resonance partner .CH2-CH=O(+)H is the same ion. This is the net outcome also captured by Eq 8.5 (page 142)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "electron_energy_ev": 70.0, "precursor_mz": 100.0883, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_44", "species_id": "acetaldehyde_enol_radical_cation", "step_id": "step_beta_cleavage_high_energy", "observed_mz": 44.0257, "relative_intensity": 1.0, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.85}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-26T00:00:00Z", "modified_at": "2026-07-26T00:00:00Z"}}
